US06951868B2
To a stirred solution of methyl 4,5-dihydroxypyridine-2-carboxylate (348 mg, 2.06 mmol) in DMF (20 mL) is added solid K2CO3 (3.1 g, 22 mmol) and 1,2-dibromoethane (386 μL, 4.5 mmol). The mixture is heated at 115° C. for 2 h. DMF is removed in vacuo, the residue is partitioned between water and EtOAc. The aqueous layer is again extracted with EtOAc. The combined organic layers are dried (MgSO4) and concentrated in vacuo to give a yellow solid for methyl 2,3-dihydro-1,4-dioxino[2,3-c]pyridine-7-carboxylate (348 mg, 86%): 1H NMR (400 MHz, CDCl3) δ 8.29, 7.71, 4.39, 3.99.

reactant | methyl 4,5-dihydroxypyridine-2-carboxylate | 2.06 mmol, 348 mg | OC1=CC(=NC=C1O)C(=O)OC | C7H7NO4
reactant | K2CO3 | 22 mmol, 3.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dibromoethane | 4.5 mmol, 386 μL | BrCCBr | C2H4Br2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 2,3-dihydro-1,4-dioxino[2,3-c]pyridine-7-carboxylate | 348 mg, 86% | O1CCOC=2C=NC(=CC21)C(=O)OC | C9H9NO4
